US04243819
To p-nitrophenyl trifluoromethyl sulfide (3.0 g) in absolute ethanol (30 ml) is added Adams catalyst (Pt2O, 0.026 g). The mixture is hydrogenated in a Parr vessel at 50 lbs/sq. in. for about 15 min. The reaction is worked up by filtering through Celite and evaporating to yield p-aminophenyl trifluoromethyl sulfide.

reactant | p-nitrophenyl trifluoromethyl sulfide | 3.0 g | FC(F)(F)SC1=CC=C(C=C1)[N+](=O)[O-] | C7H4F3NO2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Adams catalyst | 0.026 g | O=[Pt]=O
product | p-aminophenyl trifluoromethyl sulfide | FC(F)(F)SC1=CC=C(C=C1)N | C7H6F3NS
